US06407122B1
(+) Threo 1-Hydroxymethyl-1-(4-benzylpiperidin-1-yl)-2-hydroxy-2-(2-aminobenzothiazol-6-yl)-ethane
To a stirred solution of 5 g of (+) three 1-p-aminophenyl-2-(4-benzylpiperidin-1-yl)-1,3 propandiol and 5.7 g of KSCN in 30 ml of glacial acetic acid was added dropwise a solution of 2.36 g of Br2 in 25 ml of glacial acetic acid at room temperature.

reactant | 1-p-aminophenyl-2-(4-benzylpiperidin-1-yl)-1,3 propandiol | NC1=CC=C(C=C1)C(C(CO)N1CCC(CC1)CC1=CC=CC=C1)O | C21H28N2O2
reactant | KSCN | 5.7 g | C(#N)[S-].[K+]
reactant | Br2 | 2.36 g | BrBr | Br2
solvent | acetic acid | 30 ml | C(C)(=O)O | C2H4O2
solvent | acetic acid | 25 ml | C(C)(=O)O | C2H4O2
product | 1-Hydroxymethyl-1-(4-benzylpiperidin-1-yl)-2-hydroxy-2-(2-aminobenzothiazol-6-yl)-ethane | OCC(C(C1=CC2=C(N=C(S2)N)C=C1)O)N1CCC(CC1)CC1=CC=CC=C1 | C22H27N3O2S
